US05480857
Ethyl 3-trifluoromethylpyrazole-4-carboxylate (5 g), potassium carbonate (3.48 g) and ethyl iodide (2.3 ml) in acetonitrile were heated at reflux overnight. After cooling, ethyl acetate and water were added and the organic phase separated. The aqueous layer was extracted with ethyl acetate and the combined organic extracts were dried (magnesium sulphate) and evaporated under reduced pressure to give a yellow oil which was purified by crystallisation in hexane to produce 4-ethoxycarbonyl-1-ethyl-3-trifluoromethylpyrazole as white crystals (3.65 g), 1H NMR (CDCl3) δ1.25(3H,t), 1.45(3H,t), 4.10(2H,q), 4.20(2H,q) 7.90(1H,s) ppm.

reactant | Ethyl 3-trifluoromethylpyrazole-4-carboxylate | 5 g | FC(C1=NNC=C1C(=O)OCC)(F)F | C7H7F3N2O2
reactant | potassium carbonate | 3.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 2.3 ml | C(C)I | C2H5I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-ethoxycarbonyl-1-ethyl-3-trifluoromethylpyrazole | 3.65 g | C(C)OC(=O)C=1C(=NN(C1)CC)C(F)(F)F | C9H11F3N2O2
